* C:\Users\RYZEN\Downloads\Pre12AU7\PreMod.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N002 N003 N006 12AU7
V1 N001 0 280
X§U2 N001 N002 N004 12AU7
R1 N001 N002 47k
R2 N006 0 1.2k
R3 N003 0 1e6
R4 N004 0 33k
R5 N005 0 1e6
C1 N005 N004 2µ
V2 N003 0 SINE(0 1 20e3) AC 1
.lib VTT_model.lib
* .ac oct 10 20 100000
.tran 0.001
.backanno
.end
